US07842696B2
DIPEA (1.4 g, 10.86 mmol) was added drop wise to 4-hydroxy benzoic acid (500 mg, 3.62 mmol) in DMF (10 mL). EDCI (1.7 g, 9.05 mmol) and HOBT (586 mg, 4.34 mmol) were added consecutively and, after 15 minutes, glycine ethyl ester HCl (603 mg, 4.344 mmol) was added. The resulting mixture was stirred at room temperature overnight. Water was then added, and the product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford (4-hydroxy-benzoyl amino)-acetic acid ethyl ester in 91% yield.

reactant | DIPEA | 10.86 mmol, 1.4 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-hydroxy benzoic acid | 3.62 mmol, 500 mg | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | EDCI | 9.05 mmol, 1.7 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 4.34 mmol, 586 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | glycine ethyl ester HCl | 4.344 mmol, 603 mg | Cl.C(C)OC(CN)=O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (4-hydroxy-benzoyl amino)-acetic acid ethyl ester | 91% yield | C(C)OC(CNC(C1=CC=C(C=C1)O)=O)=O | C11H13NO4
